US04382937
To a cooled solution of 3-aminopyrrolidine (3.6 g) and triethylamine (4.2 g) in 100 ml of chloroform was added a solution of ethyl 7-chloro-6-fluoro-1,4-dihydro-4-oxo-1-vinyl-1,8-naphthyridine-3-carboxylate (4.15 g) in 50 ml of chloroform over a period of 40 minutes with stirring. The reaction mixture was kept under ice-cooling for one hour and then stirred for 4 hours at room temperature. To this mixture was added a mixture of water (50 ml) and 2 N sodium hydroxide (20 ml). The chloroform layer was separated from the reaction mixture, washed with water, and dried over anhydrous sodium sulfate. The chloroform was distilled off and the residue was triturated with ethyl acetate (20 ml). The resulting solid was collected and recrystallized from ethyl acetate to give 3.9 g of ethyl 7-(3-amino-1-pyrrolidinyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate (ethyl ester of the compound 1) m.p. 139°-141° C.

reactant | 3-aminopyrrolidine | 3.6 g | NC1CNCC1 | C4H10N2
reactant | triethylamine | 4.2 g | C(C)N(CC)CC | C6H15N
reactant | ethyl 7-chloro-6-fluoro-1,4-dihydro-4-oxo-1-vinyl-1,8-naphthyridine-3-carboxylate | 4.15 g | ClC1=C(C=C2C(C(=CN(C2=N1)C=C)C(=O)OCC)=O)F | C13H10ClFN2O3
reactant | sodium hydroxide | 2 N, 20 ml | [OH-].[Na+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 50 ml | O | H2O
product | ethyl 7-(3-amino-1-pyrrolidinyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 3.9 g | NC1CN(CC1)C1=C(C=C2C(C(=CNC2=N1)C(=O)OCC)=O)F | C15H17FN4O3
